US07192650B2
3,5-Bis(10-hydroxydecyloxyl)benzaldehyde A-3
1.18 g of 3,5-dihydroxybenzaldehyde A-2 (8.56 mmol) and 6.15 g of K2CO3 (44.5 mmol, 5.2 eq.) were added to 4.47 g of 10-bromodecane-1-ol A-1 (18.8 mmol, 2.2 eq.) dissolved in 100 mL of DMF, and the mixture was stirred in nitrogen atmosphere at 50° C. for 48 hours. After the temperature was returned to room temperature, the reaction was stopped by adding 50 mL of water and the organic layer was extracted with ether (100 mL×3). The extracted organic layers were combined, washed with saturated brine and dried with anhydrous Na2SO4. The solvent was removed by using an evaporator, whereby brown liquid A-3 was obtained (crude yield: 4.418 g). The product was not purified at this stage and directly used for the next reaction.

reactant | 3,5-dihydroxybenzaldehyde | 1.18 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | K2CO3 | 44.5 mmol, 6.15 g, 5.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 10-bromodecane-1-ol | 4.47 g | BrCCCCCCCCCCO | C10H21BrO
reactant | water | 50 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3,5-Bis(10-hydroxydecyloxyl)benzaldehyde | OCCCCCCCCCCOC=1C=C(C=O)C=C(C1)OCCCCCCCCCCO | C27H46O5
